US05981572
N-[3-(5-Chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
A solution of N-[3-(5-chloro-benzofuran-4-yl)-propyl]-acetamide (0.25 g) in ethanol (15 ml) was hydrogenated over 5% rhodium on carbon (80 mg) for 18 h. The catalyst was filtered off and the filtrate evaporated. The residue was purified by column chromatography on silica, eluting with dichloromethane/methanol 40:1 gave the title compound as a colourless solid (131 mg) mp 91-92

reactant | N-[3-(5-chloro-benzofuran-4-yl)-propyl]-acetamide | 0.25 g | ClC=1C=CC2=C(C=CO2)C1CCCNC(C)=O | C13H14ClNO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | rhodium on carbon | 80 mg | [Rh] | Rh
product | N-[3-(5-Chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 131 mg | ClC=1C=CC2=C(CCO2)C1CCCNC(C)=O | C13H16ClNO2
